### PR TITLE
Lemma 7.5.11

### PR DESCRIPTION
**Pull request by lakesare**
[[blueprint]](https://florisvandoorn.com/carleson/blueprint/treesection.html#lower-oscillation-bound)

The proof is ready, can be merged.

### TODOs

- [x] add `\leanok`
- [x] refactor

### CODE REVIEW

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 1]
```diff
@@ -1054,13 +1056,88 @@ lemma holder_correlation_tree (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u
 /-- The constant used in `lower_oscillation_bound`.
 Has value `2 ^ (Z * n / 2 - 201 * a ^ 3)` in the blueprint. -/
 -- Todo: define this recursively in terms of previous constants
-irreducible_def C7_5_11 (a n : ℕ) : ℝ≥0 := 2 ^ (Z * n / 2 - 201 * (a : ℝ) ^ 3)
+def C7_5_11 (a n : ℕ) : ℝ≥0 := 2 ^ (Z * n / 2 - 201 * (a : ℝ) ^ 3)
```
Comment (lakesare) [inline Carleson/ForestOperator/LargeSeparation.lean:1059]:
```suggestion
irreducible_def C7_5_11 (a n : ℕ) : ℝ≥0 := 2 ^ (Z * n / 2 - 201 * (a : ℝ) ^ 3)
```

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 2]
```diff
@@ -1054,13 +1056,88 @@ lemma holder_correlation_tree (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u
...
+        rw [scaleSmaller, add_assoc, show (1 : ℤ) + 1 = 2 by rfl]
+      _ < 128 * D^(s J + 2) := by
+        exact calculation_11 (s J) (X := X)
+    _ ≤ 2 ^ (200 * (a^3) + 4 * a) * dist_{c J, 8 * D ^ s J} (𝒬 u₁) (𝒬 u₂) := by
+      rw [show 128 * (D : ℝ)^(s J + 2) = 2^(200*a^2 + 4) * (8*D^(s J)) by exact_mod_cast calculation_12 (s := s J)]
+      rw [calculation_13]
+      apply cdist_le_iterate
+      have := defaultD_pos a
+      positivity
+  unfold C7_5_11
```
Comment (lakesare) [inline Carleson/ForestOperator/LargeSeparation.lean:1138]:
```suggestion
  rw [C7_5_11]
```

**Comment by fpvandoorn** [comment]
Thanks!
